US07867774B2
Synthesis of Microspheres with Tropolone Surface Groups
To 100E6 carboxylated microspheres (previously activated with sulfo-N-hydroxysuccinimide and EDC) in 0.5 mL of carbonate buffer (pH 9) was added 2 mg of 5-aminotropolone dissolved in 25 μL of dimethyl sulfoxide. The suspension was agitated for 4 hours, and the excess reagent was washed away from the microspheres.

reactant | sulfo-N-hydroxysuccinimide | S(=O)(=O)(O)C1C(=O)N(C(C1)=O)O | C4H5NO6S
reactant | EDC
reactant | 5-aminotropolone | 2 mg | C1=CC(=O)C(=CC=C1N)O | C7H7NO2
solvent | carbonate | 0.5 mL, pH 9 | C([O-])([O-])=O
solvent | dimethyl sulfoxide | 25 μL | CS(=O)C | C2H6OS
product | Tropolone | C1=CC=C(C(=O)C=C1)O | C7H6O2
